US06900336B2
To a solution of (R)-5-hydroxymethyl-3,3-dimethyl-pyrrolidin-2-one (4.0 g, 28 mmol), prepared as described in Tetrahedron 1998, 54 10295-10307, and ethyl vinyl ether (4 mL, 42 mmol) in chloroform (26 mL), was added a catalytic amount of trifluoroacetic acid (0.056 mL), and the reaction mixture was stirred for four hours at room temperature. The solution was then washed with a saturated solution of sodium bicarbonate and brine, and dried over magnesium sulfate. The crude oil obtained after evaporating the solvent, was purified by chromatography on silica gel using hexane:ethyl acetate 1:1 as a solvent, giving 2.6 g of (R)-5-(1-ethoxy-ethoxymethyl)-3,3-dimethyl-pyrrolidin-2-one.

reactant | (R)-5-hydroxymethyl-3,3-dimethyl-pyrrolidin-2-one | 28 mmol, 4.0 g | OC[C@H]1CC(C(N1)=O)(C)C | C7H13NO2
reactant | ethyl vinyl ether | 42 mmol, 4 mL | C(=C)OCC | C4H8O
reactant | trifluoroacetic acid | 0.056 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 26 mL | C(Cl)(Cl)Cl | CHCl3
product | (R)-5-(1-ethoxy-ethoxymethyl)-3,3-dimethyl-pyrrolidin-2-one | 2.6 g | C(C)OC(C)OC[C@H]1CC(C(N1)=O)(C)C | C11H21NO3
